US08754079B2
XXXXXXII.3 N-[(1S,3S)-3-(2-Amino-5-fluoro-phenoxy)-cyclopentyl]-acetamide
A mixture of N-[(1S,3S)-3-(5-fluoro-2-nitro-phenoxy)-cyclopentyl]-acetamide (1.45 g) and Raney Ni (200 mg) in MeOH (150 ml) was stirred at rt overnight under hydrogen atmosphere (5 bar). The catalyst was removed by filtration and the filtrate was concentrated to give the desired product.

reactant | N-[(1S,3S)-3-(5-fluoro-2-nitro-phenoxy)-cyclopentyl]-acetamide | 1.45 g | FC=1C=CC(=C(O[C@@H]2C[C@H](CC2)NC(C)=O)C1)[N+](=O)[O-] | C13H15FN2O4
solvent | MeOH | 150 ml | CO | CH4O
catalyst | Ni | 200 mg | [Ni] | Ni
product | N-[(1S,3S)-3-(2-Amino-5-fluoro-phenoxy)-cyclopentyl]-acetamide | NC1=C(O[C@@H]2C[C@H](CC2)NC(C)=O)C=C(C=C1)F | C13H17FN2O2
